US04937251
4-Amino-3,5-dichloro-α-[[[6-[2-(2-pyridinyl)ethoxy]hexyl]amino]methyl]benzenemethanol
Sodium borohydride (0.16 g) was added portionwise over 5 min to a solution of 1-(4-amino-3,5-dichlorophenyl)-2-[[6-[2-(2-pyridinyl)ethoxy]hexyl]amino]ethanone (0.44 g) in methanol (7 ml) at 0°-5° with stirring. After 1.5 h, the solution was evaporated in vacuo and the residue partitioned between water (60 ml) and ethyl acetate (100 ml). The organic phase was dried and evaporated in vacuo to a gum which was purified by FCC eluting with System C (90:10:1) to afford a product, which was triturated with hexane (2 ml) to give the title compound as a colourless powder (47 mg), m.p. 94.5°-96.5°, t.l.c. (System A 39:10:1) Rf 0.44.

reactant | Sodium borohydride | 0.16 g | [BH4-].[Na+]
reactant | 1-(4-amino-3,5-dichlorophenyl)-2-[[6-[2-(2-pyridinyl)ethoxy]hexyl]amino]ethanone | 0.44 g | NC1=C(C=C(C=C1Cl)C(CNCCCCCCOCCC1=NC=CC=C1)=O)Cl | C21H27Cl2N3O2
solvent | methanol | 7 ml | CO | CH4O
product | 4-Amino-3,5-dichloro-α-[[[6-[2-(2-pyridinyl)ethoxy]hexyl]amino]methyl]benzenemethanol | 47 mg | NC1=C(C=C(C=C1Cl)C(O)CNCCCCCCOCCC1=NC=CC=C1)Cl | C21H29Cl2N3O2
